US05948812
118 g (1.0 mol) of 3-methyl-1,5-pentanediol and 317 g (1.3 mol) of 1,6-di-bromohexane in 2.5 l of dioxan were treated at room temperature with 28 g (1.1 mol) of 95 percent sodium hydride and subsequently heated under reflux for 24 h. After cooling the reaction mixture was treated with 400 ml of water, neutralized with saturated ammonium chloride solution and subsequently extracted three times with 1 l of tert-butyl methyl ether each time. The combined organic extracts were washed with saturated ammonium chloride solution, dried over magnesium sulphate and concentrated on a rotary evaporator. Starting material and byproducts were removed by distillation in a vacuum at 150° C. bath temperature and 0.09 mbar. As the distillation residue there were obtained 183 g of 66 percent 12-bromo-3-methyl-6-oxadodecan-1-ol (43%), which is sufficiently pure for the further reactions.

reactant | 3-methyl-1,5-pentanediol | 1.0 mol, 118 g | CC(CCO)CCO | C6H14O2
reactant | 1,6-di-bromohexane | 1.3 mol, 317 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydride | 1.1 mol, 28 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dioxan | 2.5 l | O1CCOCC1 | C4H8O2
solvent | water | 400 ml | O | H2O
product | 12-bromo-3-methyl-6-oxadodecan-1-ol | 183 g | BrCCCCCCOCCC(CCO)C | C12H25BrO2
